US04429127
A mixture of 1-ethyl-6,8-difluoro-1,4-dihydro-7-[4-(p-nitrobenzyl)-1-piperazinyl]-4-oxoquinoline-3-carboxylic acid (6.0 g), acetic acid (150 ml), and 5% palladium on charcoal (1.0 g) was hydrogenated. The slurry was filtered and the filtrate concentrated to dryness. The residue was treated with water, neutralized with aqueous sodium hydroxide solution and extracted with dichloromethane. The organic layer was dried and evaporated. The residue was chromatographed on silica gel. Elution with a mixture of chloroform and ethanol (20:1) and recrystallization from a mixture of chloroform and ethanol gave 7-[4-(p-aminobenzyl)-1-piperazinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-ethyl-6,8-difluoro-1,4-dihydro-7-[4-(p-nitrobenzyl)-1-piperazinyl]-4-oxoquinoline-3-carboxylic acid | 6.0 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-])F)=O)C(=O)O | C23H22F2N4O5
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 7-[4-(p-aminobenzyl)-1-piperazinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=CC=C(CN2CCN(CC2)C2=C(C=C3C(C(=CN(C3=C2F)CC)C(=O)O)=O)F)C=C1 | C23H24F2N4O3
